US06399631B1
N-(9-Ethyl-9H-carbazol-3-yl)-methanesulfonamide
To a solution of 9-Ethyl-9H-carbazol-3-ylamine (210 mg, 1 mmol) and pyridine (105 μl, 1.3 mmol) in CH2Cl2 (8 ml) at room temperature was added methanesulfonyl chloride (85 μl, 1.1 mmol). After stirring overnight the reaction mixture was diluted with CH2Cl2 and washed with saturated aq. NaHCO3 and brine, then the organic layer dried (Na2SO4) and concentrated to afford the crude product. Chromatographic purification (silica, CH2Cl2) afforded the desired product as a pale yellow solid (203 mg, 70% yield).

reactant | 9-Ethyl-9H-carbazol-3-ylamine | 1 mmol, 210 mg | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
reactant | pyridine | 1.3 mmol, 105 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 1.1 mmol, 85 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | N-(9-Ethyl-9H-carbazol-3-yl)-methanesulfonamide | 203 mg, 70% yield | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NS(=O)(=O)C | C15H16N2O2S
